US06576656B1
(2) 1-Methyl-4,6-dichloro-3-hydroxy-(2-naphthyl)oxindole
The title compound (59.1 mg, 1.5%) was prepared from 1-methyl-4,6-dichloroisatin (250 mg) and 2-naphthyl magnesium bromide by the procedure similar to that described in Example 1.

reactant | 1-methyl-4,6-dichloroisatin | 250 mg | CN1C(=O)C(=O)C2=C(C=C(C=C12)Cl)Cl | C9H5Cl2NO2
reactant | 2-naphthyl magnesium bromide | C1=C(C=CC2=CC=CC=C12)[Mg]Br
product | 1-Methyl-4,6-dichloro-3-hydroxy-(2-naphthyl)oxindole | 59.1 mg, 1.5% | CN1C(C(C2=C(C=C(C=C12)Cl)Cl)(O)C1=CC2=CC=CC=C2C=C1)=O | C19H13Cl2NO2
